### ISSUE TITLE
[IK]: Prove Ramanujan identity `zeta_mul_zeta_mul_zeta_mul_zeta_eq`

### ISSUE THREAD

**Issue by AlexKontorovich** [AlexKontorovich/PrimeNumberTheoremAnd#1242]
## Description

Prove Ramanujan identity `zeta_mul_zeta_mul_zeta_mul_zeta_eq`

## Blueprint

https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/IK-chapter.html#zeta_mul_zeta_mul_zeta_mul_zeta_eq

## Zulip

TBA

**Comment by zw810-ctrl** [comment]
Hi @AlexKontorovich,

I've encountered some issues while formalizing this theorem.Firstly, although the blueprint states we can use Dirichlet convolution, manipulating the right-hand side directly turned out to be quite difficult. So, I switched to an algebraic approach: proving it via Euler products and comparing the local factors at each prime $p$.

```lean
noncomputable def ZetaLocalFactor (s : ℂ) (p : Nat.Primes) : ℂ :=
  (1 - (p : ℂ) ^ (-s))⁻¹

noncomputable def ramanujanRhsLocalFactor (α β s : ℂ) (p : Nat.Primes) : ℂ :=
  (1 - (p : ℂ) ^ (-(2 * s - α - β)))⁻¹ *
    ∑' k : ℕ, (σᴿ α (p ^ k) * σᴿ β (p ^ k)) * (p : ℂ) ^ (-(s * k))
```

and then prove

```lean
lemma ramanujan_local_factor (α β s : ℂ) (p : Nat.Primes)
    (h1 : 1 < s.re) (h2 : 1 < (s - α).re)
    (h3 : 1 < (s - β).re) (h4 : 1 < (s - α - β).re) :
    ZetaLocalFactor s p * ZetaLocalFactor (s - α) p * ZetaLocalFactor (s - β) p *
      ZetaLocalFactor (s - α - β) p = ramanujanRhsLocalFactor α β s p := by
 sorry
```

This local approach relies on the geometric sum formula for the divisor function $\sigma_\alpha(p^k)$, 

```lean
lemma sigmaR_prime_pow (α : ℂ) (p : Nat.Primes) (k : ℕ) (hα : (p : ℂ) ^ α ≠ 1) :
    σᴿ α (p ^ k) = ((p : ℂ) ^ (α * (k + 1)) - 1) / ((p : ℂ) ^ α - 1) := by
  change ∑ d ∈ ((p : ℕ) ^ k).divisors, (d : ℂ) ^ α =
    ((p : ℂ) ^ (α * (k + 1)) - 1) / ((p : ℂ) ^ α - 1)
  rw [sum_divisors_prime_pow p.2]
  calc
    ∑ n ∈ Finset.range (k + 1), (((p ^ n : ℕ) : ℂ) ^ α)
        = ∑ n ∈ Finset.range (k + 1), (((p : ℂ) ^ α) ^ n) := by
            apply Finset.sum_congr rfl
            intro n hn
            norm_num [Nat.cast_pow]
            rw [← Complex.natCast_cpow_natCast_mul p n α, mul_comm,
              Complex.cpow_mul_nat]
    _ = (((p : ℂ) ^ α) ^ (k + 1) - 1) / ((p : ℂ) ^ α - 1) := by
          rw [geom_sum_eq hα]
    _ = ((p : ℂ) ^ (α * (k + 1)) - 1) / ((p : ℂ) ^ α - 1) := by
          rw [← Complex.cpow_mul_nat (p : ℂ) α (k + 1)]
          congr 1
          norm_num

```

However, this lemma needs  (hα : (p : ℂ) ^ α ≠ 1) .  So the ramanujanRhsLocalFactor  needs to be discuss by 4 conditions:
1,  (p : ℂ) ^ α ≠ 1 and  (p : ℂ) ^ β ≠ 1
2,  (p : ℂ) ^ α = 1 and  (p : ℂ) ^ β = 1 (Like they are both 0, which is exactly the condition of zeta_pow_four_eq)
3,  (p : ℂ) ^ α = 1 and  (p : ℂ) ^ β ≠ 1
4,  (p : ℂ) ^ α ≠ 1 and  (p : ℂ) ^ β = 1

Which will let this theorem needs a lot of lemmas and lines.  The final proof will like this way:

```lean
theorem zeta_mul_zeta_mul_zeta_mul_zeta_eq (α β s : ℂ) (h1 : 1 < s.re) (h2 : 1 < (s - α).re)
    (h3 : 1 < (s - β).re) (h4 : 1 < (s - α - β).re) :
    riemannZeta s * riemannZeta (s - α) * riemannZeta (s - β) * riemannZeta (s - α - β) =
      riemannZeta (2 * s - α - β) *
      LSeries (fun n ↦ σᴿ α n * σᴿ β n) s := by
  let hf1 := zetaLocalFactor_multipliable s h1
  let hf2 := zetaLocalFactor_multipliable (s - α) h2
  let hf3 := zetaLocalFactor_multipliable (s - β) h3
  let hf4 := zetaLocalFactor_multipliable (s - α - β) h4
  rw [zeta_euler_product s h1,
      zeta_euler_product (s - α) h2,
      zeta_euler_product (s - β) h3,
      zeta_euler_product (s - α - β) h4,
      ramanujan_LSeries_to_prime_powers α β s h1 h2 h3 h4,
      ← hf1.tprod_mul hf2,
      ← (hf1.mul hf2).tprod_mul hf3,
      ← ((hf1.mul hf2).mul hf3).tprod_mul hf4]
  apply tprod_congr
  intro p
  simpa [ramanujanRhsLocalFactor] using ramanujan_local_factor α β s p h1 h2 h3 h4
```

Before I brute-force these case splits, I wanted to ask for your advice:

Should I stick with this local factor approach and just power through the case splits for $\alpha = 0$ and $\beta = 0$?

Or is it better to return to the Dirichlet convolution approach to bypass these local singularities globally? If so, are there specific Mathlib APIs or tricks for Dirichlet series convolutions that I might have missed to make that route smoother?Any guidance would be greatly appreciated!

**Comment by Robby955** [comment]
Picking this up if there are no objections. The issue has been assigned since
April and I did not hear back when I reached out, so I have rebased my earlier
proof of 1.28 and will reopen the PR. I will close it again if you are still
working on it.
